2111-10-11 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Slow infusion of pRBC since pt with increased respiratory distress,
   however improved with lasix 10mg
   - Hct with appropriate bump (18->21) after 1 unit pRBC, Hct->24 after
   second unit, given 2 additional pRBC units, Hct 31, 4hr check stable at
   30
   - Tagged red blood scan shows bleeing in RUQ, either hepatic flexture
   or duodenal
   - Three melanotic stools, one brown stool
   - GI: prep for colonoscopy tomorrow
   - Given golytely, continues with melanotic stools
   Allergies:
   Penicillins
   Unknown;
   Phenergan (Oral) (Promethazine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-10-10**] 08:03 PM
   Furosemide (Lasix) - [**2111-10-10**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-11**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 91 (85 - 96) bpm
   BP: 133/67(83) {122/48(72) - 173/126(132)} mmHg
   RR: 21 (16 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,822 mL
                                                                  1,650 mL
   PO:
                                                                    180 mL
                                                                  1,440 mL
   TF:
   IVF:
                                                                    512 mL
                                                                     70 mL
   Blood products:
                                                                  1,541 mL
                                                                    140 mL
   Total out:
                                                                  5,905 mL
                                                                  1,850 mL
   Urine:
                                                                  5,905 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,083 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Awake, alert
   RRR, cta b/l
   Abd soft, NT, melanotic stool
   2+ pulses, no edema
   Labs / Radiology
   236 K/uL
   10.4 g/dL
   94 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.5 mEq/L
   12 mg/dL
   100 mEq/L
   139 mEq/L
   30.1 %
   9.9 K/uL
        [image002.jpg]
                            [**2111-10-10**]  09:00 AM
                            [**2111-10-10**]  10:30 AM
                            [**2111-10-10**]  03:31 PM
                            [**2111-10-10**]  07:53 PM
                             [**2111-10-11**]  01:05 AM
                             [**2111-10-11**]  04:22 AM
   WBC
   7.6
   9.9
   Hct
   18.3
   21.9
   24.4
   31.8
   30.1
   Plt
   220
   236
   Cr
   1.0
   0.9
   0.8
   TropT
   0.03
   0.08
   Glucose
   344
   117
   94
   Other labs: PT / PTT / INR:14.2/25.9/1.2, CK / CKMB /
   Troponin-T:200/5/0.08, ALT / AST:192/239, Alk Phos / T Bili:134/3.7,
   Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:371 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: R pleural effussion?
   Tagged red blood scan shows bleeing in RUQ, either hepatic flexture or
   duodenal
   Microbiology: None pending
   Assessment and Plan
   Ms. [**Known lastname 9015**] is a 74F with a PMH s/f atrial fibrillation with recent
   initiation of coumadin, who presents with BRBPR, and a significant drop
   in hematocrit
   #. GI bleed: Suspected site is from the lower GI tract, given initial
   brisk presentation and continued melena.  Tagged RBC scan suggests
   hepatic flexture vs duodenum.  She does have transaminitis with ascites
   on CT, but no known liver disease.  S/p 6 units pRBC with Hct 16->31,
   now stable Hct but continued melanotic stool.  INR now 1.2, given Vit K
   but no FFP.  Lactate normalized.
   - Colonoscopy today
   - Maintain access with two large bore PIVs
   - Maintain active type and crossmatch
   - q4H Hct
   - transfuse for HCT <21 or active bleeding
   - surgery following
   - continue IV PPI
   -Holding antihypertensives, ASA, and warfarin
   #. Respiratory Distress: Pt with tachypnea and SOB during blood
   transfusion, given lasix 10mg x3 in between transfusions with improved
   breathing.  Likely component of fluid overload as demonstrated on CXR
   from chronic diastolic dysfunction, however last ECHO from [**8-19**] with EF
   >70% however could have significant MR.  [**Name13 (STitle) 767**] DNI code status,
   cautious with fluids.
   - If requires futher resuscitation, give 10mg lasix for every 2 units
   prbc or symptomatically.
   #. Abnormal LFTs:  All elevated.  Differential is congestion vs shock
   liver from unrecorded hypotension in setting of bleed vs acute
   inflammation.
   - Continue to monitor daily, if no improvement with treatment of
   underlying bleed will send more hepatitis labs
   #. Arrhythmia: Patient with a transient epidsode of what sounds like
   Mobitz type II heart block, now resolved.  No evidence of heart block
   on rechecked EKG, HR stable overnight on tele.
   -  Beta blockers on hold for GI bleed.
   - If this is an ongoing issue, will need to involve cardiology for
   possible pacemaker placement.
   #. EKG Changes: EKG showing new STD in anterior-lateral leads,
   troponins 0.02 with GFR ~50 up to 0.08, CK-MB normal. No CP/SOB.
   Concern for demand ischemia in the setting of an acute bleed.
   - Continue resucitation with blood and fluids
   #. Chronic diastolic dysfunction: No active issues, will monitor volume
   status during resuscitation.  BB on hold in the setting of acute bleed.
   #. Atrial fibrillation: Amiodarone not on medication list, will confirm
   with pharmacy.
   #. Hypothyroidism: Continue home dose of levothyroxine
   #. Diabetes type II: ISS, elevated bs to 300s
   - adjust ISS
   #. HTN: Holding antihypertensives as above
   #. FEN: NPO
   #. PPX:
   -DVT ppx with pneumoboots
   -IV PPI during acute bleed
   #. ACCESS: PIV's
   #. CODE STATUS: DNR/DNI, confirmed with the patient
   #. EMERGENCY CONTACT: Daughter is HCP, [**Name (NI) 9035**] [**Name2 (NI) 9036**] [**Telephone/Fax (1) 9037**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-10-10**] 09:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-10-12 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2111-10-11**] 11:30 AM
   --Colonoscopy unable to localize bleeding source, blood throughout the
   colon. Rec following Hct, angio consult if brisk bleed. Surgery on
   board.
   --Hct's through the day 31.8 --> 33.3 --> 32.3
   --ERCP fellow: get stable first then consider MRCP. Could be mass at
   ampulla? Although BUN/Cr normal.
   --Tbili fractionated and increased indirect fraction, although hapto
   normal.
   --Have AMA, [**Doctor First Name **], Hepatitis panel pending
   --Amiodarone or statin home med? (cause of transaminitis) --> spoke
   with daughter who [**Name2 (NI) 3275**]'t know if either were home meds. Phone number of
   [**Hospital3 59**] [**Telephone/Fax (1) 9056**] and Pace (?) [**Telephone/Fax (1) 9057**]. Daughter stated
   they were giving meds, would know. Daughters very concerned about her
   and wanting updates frequently. Daughter in [**Name2 (NI) **] [**Telephone/Fax (1) 9058**].
   --This am seen to be aphasic, unable to move flaccid R arm, R leg
   moving to stimulation, weeping. Able to move L side. Code stroke called
   and pt went to stat head CT, which is preliminarily negative, so pt
   then went to CTA perfusion scan. Pt started on Heparin gtt.
   Allergies:
   Penicillins
   Unknown;
   Phenergan (Oral) (Promethazine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2111-10-11**] 11:35 AM
   Fentanyl - [**2111-10-11**] 11:40 AM
   Pantoprazole (Protonix) - [**2111-10-11**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-12**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 95 (82 - 100) bpm
   BP: 142/68(86) {106/36(57) - 158/106(116)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,250 mL
                                                                    180 mL
   PO:
                                                                  1,560 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    550 mL
   Blood products:
                                                                    140 mL
   Total out:
                                                                  2,925 mL
                                                                    215 mL
   Urine:
                                                                  2,925 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -675 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   By time of rounds, pt was able to speak, had spontaneous movement in
   BUE
s but still unable to move RLE. CN 2-12 grossly intact. Then, by
   end of rounds, pt was able to move RLE.
   Labs / Radiology
   247 K/uL
   10.2 g/dL
   92 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   13 mg/dL
   102 mEq/L
   140 mEq/L
   30.3 %
   8.3 K/uL
        [image002.jpg]
                            [**2111-10-10**]  09:00 AM
                            [**2111-10-10**]  10:30 AM
                            [**2111-10-10**]  03:31 PM
                            [**2111-10-10**]  07:53 PM
                             [**2111-10-11**]  01:05 AM
                             [**2111-10-11**]  04:22 AM
                             [**2111-10-11**]  08:14 AM
                             [**2111-10-11**]  12:35 PM
                             [**2111-10-11**]  04:56 PM
                             [**2111-10-12**]  04:32 AM
   WBC
   7.6
   9.9
   9.2
   8.3
   Hct
   18.3
   21.9
   24.4
   31.8
   30.1
   31.8
   33.3
   32.3
   30.3
   Plt
   220
   236
   249
   247
   Cr
   1.0
   0.9
   0.8
   0.7
   TropT
   0.03
   0.08
   0.08
   Glucose
   344
   117
   94
   92
   Other labs: PT / PTT / INR:13.3/24.6/1.1   (today)  <-- 1.2, 1.4, 1.6 ,
   CK / CKMB / Troponin-T:200/5/0.08, ALT / AST:123/91   (today)
   <--192/[**Telephone/Fax (3) 9059**], Alk Phos / T Bili:107/2.5  (today)   134/3.0 with
   direct 0.6, indirect 2.4, Differential-Neuts:71.0 %, Band:2.0 %,
   Lymph:12.0 %, Mono:9.0 %, Eos:5.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:3.6 g/dL, LDH:371 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: CE's negative x3
   AMA, [**Doctor First Name **] pending
   iron studies within normal limits
   lactate 4.0 --> 1.9
   Imaging: CT head this am
   Suboptimal evaluation due to patient motion in the scanner.
   With this limitation no acute intracranial process on CT.
   If clinical concern for acute ischemia, MRI is more sensitive.
   CXR [**2111-9-10**]
   Cardiomegaly and prominent central pulmonary veins are stable. New
   ill-defined opacities in the periphery of the right lower lobes are
   concerning
   for aspiration. Cardiomediastinal contours are normal. Sternal wires
   are
   aligned, and there is no evidence of pneumothorax or enlarging pleural
   effusions.
   [**2111-10-10**]
   CT abd/pelv
   IMPRESSION:
   1. No evidence of acute colitis. No bowel obstruction.
   2. Thickened urinary bladder wall, raising the concern for cystitis.
   3. Dilated CBD measuring 15mm, of uncertain significance. MRCP may be
   considered if concern for biliary pathology.
   4. Evidence of prior renal insults vs ongoing pyelonephritis--correlate
   clinically.
   5. Small right-sided pleural effusion.
   [**2111-9-10**] Colonoscopy
   Blood throught the colon, not able to locate the bleeding source,
   visualization of the colon is limited.
   Otherwise normal colonoscopy to ascending colon
   Microbiology: Hepatitis panels pending
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Ms. [**Known lastname 9015**] is a 74F with a PMH s/f atrial fibrillation with recent
   initiation of coumadin, who presented with BRBPR, GIB, s/p colonoscopy
   unable to assess where the bleeding was coming from, now with changes
   this am concerning for acute stroke, currently getting  CTA head/neck
   with brain perfusion.
   #. Stroke: Very concerning findings this am with aphasia, R
   hemiparesis. Unclear etiology but pt possibly had PAF and threw a mural
   thrombus into cerebral vasculature. However, pt not recorded as having
   gone into AF, and f/u EKG this am in SR.
   --F/u CTA that pt is getting emergently right now
   --F/u with Neuro who is on board
   --Started on Hep gtt without initial bolus
   --Q2 hrs neuro checks
   --Bubble study today
   #. GI bleed: Unclear source as of now, the plan was to continue to
   follow Hcts and make sure she stabilizes, if brisk bleed would need to
   go to IR for likely embolization. Hcts were stable through yesterday.
   Suspected site is from the lower GI tract, given initial brisk
   presentation and continued melena.  Tagged RBC scan suggests hepatic
   flexture vs duodenum.  She does have transaminitis with ascites on CT,
   so it
s concerning that she has RUQ bleed and transaminitis/ascites.
   S/p 6 units pRBC with Hct 16->31, now stable Hct and no further
   melanotic/red stools.  INR now 1.1, given Vit K but no FFP.  Lactate
   normalized.
   - Continue q4 Hcts
   - Maintain access with two large bore [**Name (NI) 1416**]
 pt also to get power PICC
   today
   - Maintain active type and crossmatch --> send for T&S this am
   - Has 4U crossmatched
   - q4H Hct
   - transfuse for HCT <21 or active bleeding
   - surgery following
   - continue IV PPI
   -Holding antihypertensives, ASA, and warfarin
   # Elevated transaminases and Tbili--With CBD dilatation on CT scan to
   15mm. ERCP fellow is on board and has recommended stabilizing the pt
   from a GIB perspective and then consider MRCP to assess whether a mass
   at the ampulla could be causing the bleed. This was before the possible
   CVA this am, and this will need to be further investigated once pt more
   stable.
   --Consider MRCP once pt stable
   --F/u hepatitis panels and autoimmune hepatitis panel
   #. Respiratory Distress: Pt with tachypnea and SOB during blood
   transfusion, given lasix 10mg x3 in between transfusions with improved
   breathing.  Likely component of fluid overload as demonstrated on CXR
   from chronic diastolic dysfunction, however last ECHO from [**8-19**] with EF
   >70% however could have significant MR.  [**Name13 (STitle) 767**] DNI code status,
   cautious with fluids.
   - If requires futher resuscitation, give 10mg lasix for every 2 units
   prbc or symptomatically.
   #. Arrhythmia: Patient with a transient epidsode of what sounds like
   Mobitz type II heart block, now resolved.  No evidence of heart block
   on rechecked EKG, HR stable overnight on tele.
   -  Beta blockers on hold for GI bleed.
   - If this is an ongoing issue, will need to involve cardiology for
   possible pacemaker placement.
   --F/u EKG this am
 No evidence of any arrhythmia, is in sinus.
   #. EKG Changes: EKG showing new STD in anterior-lateral leads,
   troponins 0.02 with GFR ~50 up to 0.08, CK-MB normal. No CP/SOB.
   Concern for demand ischemia in the setting of an acute bleed.
   --F/u EKG this am
 No concerning ST changes this am.
   #. Chronic diastolic dysfunction: No active issues, will monitor volume
   status during resuscitation.  BB on hold in the setting of acute bleed.
   #. Atrial fibrillation: Amiodarone not on medication list, will confirm
   with pharmacy.
   --Will need to call pharmacy as daughters not aware of pt's med list
   --[**Hospital3 **] facility [**Telephone/Fax (1) 9056**]
   --Pace [**Telephone/Fax (1) 9057**]
   #. Hypothyroidism: Continue home dose of levothyroxine
   #. Diabetes type II: Humalog 75/25 at 15U q breakfast/bedtime and ISS
   #. HTN: Holding antihypertensives as above
   #. FEN: NPO. No need to advance diet right now with these acute issues.
   #. PPX:
   -DVT ppx with pneumoboots
   -IV PPI during acute bleed
   #. ACCESS: 2 PIV's
 to get power PICC today
   #. CODE STATUS: DNR/DNI, confirmed with the patient
   #. EMERGENCY CONTACT: Daughter is HCP, [**Name (NI) 9035**] [**Name2 (NI) 9036**] [**Telephone/Fax (1) 9037**]
   #. DISPOSITION: ICU. F/u stroke w/u
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-10-10**] 09:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-10-13 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Code Stroke in AM with flacid paralysis of R side, aphasia, got CT
   head negative, CTA negative, slowly regained full strength on right,
   speech improved, now on heparin gtt, neuro following
   --Called by PCP, [**First Name4 (NamePattern1) 2021**] [**Last Name (NamePattern1) 9016**] at [**Hospital1 475**], who wanted an update and seemed
   very involved in her care.  He would like to be updated periodically if
   possible, cell [**Telephone/Fax (1) 9075**] or via pager [**Telephone/Fax (1) 9076**] (pager x[**Pager number 9077**]).
   --Noon Hct and Coags stable
   --Had home meds in chart: on statin but not on amiodarone.
   --Power PICC placed.
   --Had a marroon bowel movement with moderate blood at midnight, Hct
   stable at 29.
   Allergies:
   Penicillins
   Unknown;
   Phenergan (Oral) (Promethazine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-13**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.3
C (95.6
   HR: 88 (77 - 98) bpm
   BP: 106/56(69) {97/51(29) - 164/105(110)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,841 mL
                                                                    825 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,661 mL
                                                                    825 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    940 mL
   Urine:
                                                                  1,175 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    666 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Awake, alert, speech appropriate
   RRR, CTA b/l
   Abd soft, NT
   R knee with apparent prepatellar effusion without overlying erythema,
   able to bend knee, but with pain, difficult to assess strength distal
   to R knee, however strength symmetric in b/l UE
   Labs / Radiology
   246 K/uL
   9.7 g/dL
   145 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   29.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2111-10-11**]  01:05 AM
                             [**2111-10-11**]  04:22 AM
                             [**2111-10-11**]  08:14 AM
                             [**2111-10-11**]  12:35 PM
                             [**2111-10-11**]  04:56 PM
                             [**2111-10-12**]  04:32 AM
                             [**2111-10-12**]  12:21 PM
                             [**2111-10-12**]  03:46 PM
                             [**2111-10-12**]  11:31 PM
                             [**2111-10-13**]  03:35 AM
   WBC
   9.9
   9.2
   8.3
   7.2
   Hct
   31.8
   30.1
   31.8
   33.3
   32.3
   30.3
   34.3
   30.4
   29.3
   29.5
   Plt
   [**Telephone/Fax (3) 9078**]46
   Cr
   0.8
   0.7
   0.7
   TropT
   0.08
   Glucose
   94
   92
   145
   Other labs: PT / PTT / INR:12.5/41.1/1.1, CK / CKMB /
   Troponin-T:200/5/0.08, ALT / AST:92/61, Alk Phos / T Bili:93/2.5,
   Differential-Neuts:71.0 %, Band:2.0 %, Lymph:12.0 %, Mono:9.0 %,
   Eos:5.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:371 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging
   CT head/neck: Mild to moderate atherosclerotic disease without
   high-grade stenoses.
   ECHO: Normal functioning aortic bioprosthesis. Mild mitral stenosis
   with thickened leafles and supporting structures. Mild symmetric left
   ventricular hypertrophy with preserved global and regional
   biventricular systolic function. No evidence for an intracardiac shunt.
   Assessment and Plan
   Ms. [**Known lastname 9015**] is a 74F with a PMH s/f atrial fibrillation with recent
   initiation of coumadin, who presented with BRBPR, GIB, s/p colonoscopy
   unable to assess where the bleeding was coming from, s/p TIA [**10-12**] with
   negative CT head/neck.
   #. Stroke: S/p R-sided paralysis and aphasia, now symptomatically
   improved with negative CT head/neck for thrombus, negative ECHO for
   thrombus.  On heparin gtt.   Neuro following, consider restarting
   coumadin.  ECHO negative for thrombus, likely TIA since symptoms
   resolved
   --F/u neuro recs re anticoagulation
   --Q2 hrs neuro checks
   #. GI bleed: On heparin for TIA, with 2 marroon stools in 24hrs.
   Unclear source as of now, the plan was to continue to follow Hcts and
   make sure she stabilizes, if brisk bleed would need to angiography.
   Hcts stable. Suspected site is from the lower GI tract, given initial
   brisk presentation and continued melena.  Tagged RBC scan suggests
   hepatic flexture vs duodenum.  She does have transaminitis with ascites
   on CT, so it
s concerning that she has RUQ bleed and
   transaminitis/ascites.  S/p 6 units pRBC with Hct 16->31, now stable
   Hct and 2  melanotic stools.  INR now 1.1, given Vit K but no FFP.
   Lactate normalized.
   - Hct q8hr
   - To angio if brisk bleeding
   - GI recs: re repeat colonoscopy given chornic anemia
   - Access 2 large bore PIVs  and  power PICC
   - Maintain active type and screen, has 4 units crossed
   - transfuse for HCT <21 or active bleeding
   - surgery following
   - continue IV PPI
   - Holding antihypertensives, ASA, and warfarin
   # Elevated transaminases and Tbili: With CBD dilatation on CT scan to
   15mm. ERCP fellow is on board and has recommended stabilizing the pt
   from a GIB perspective and then consider MRCP to assess whether a mass
   at the ampulla could be causing the bleed. This was before the possible
   CVA this am, and this will need to be further investigated once pt more
   stable.
   --Consider MRCP once pt stable
   --F/u hepatitis panels and autoimmune hepatitis panel
   # Knee Pain: apparent effusion.  Concern for hemarthrosis given on
   heparin gtt for TIA vs unknown trauma in setting of R sided paralysis.
   - hold heparin to tap knee to eval for hemarthrosis
   #. Respiratory Distress: Pt with tachypnea and SOB during blood
   transfusion, given lasix 10mg x3 in between transfusions with improved
   breathing.  Likely component of fluid overload as demonstrated on CXR
   from chronic diastolic dysfunction, however last ECHO from [**8-19**] with EF
   >70% however could have significant MR.  [**Name13 (STitle) 767**] DNI code status,
   cautious with fluids.
   - If requires futher resuscitation, give 10mg lasix for every 2 units
   prbc or symptomatically.
   #. Arrhythmia: Patient with a transient epidsode of what sounds like
   Mobitz type II heart block, now resolved.  No evidence of heart block
   on rechecked EKG now in sinus, HR stable overnight on tele.
   -  Beta blockers on hold for GI bleed.
   - If this is an ongoing issue, will need to involve cardiology for
   possible pacemaker placement.
   #. EKG Changes: EKG showing new STD in anterior-lateral leads,
   troponins 0.02 with GFR ~50 up to 0.08, CK-MB normal. No CP/SOB.
   Likely  demand ischemia in the setting of an acute bleed.
   #. Atrial fibrillation: Amiodarone not on medication list, will confirm
   with pharmacy.
   --Will need to call pharmacy as daughters not aware of pt's med list
   --[**Hospital3 **] facility [**Telephone/Fax (1) 9056**]
   --Pace [**Telephone/Fax (1) 9057**]
   #. Hypothyroidism: Continue home dose of levothyroxine
   #. Diabetes type II: Humalog 75/25 at 15U q breakfast/bedtime and ISS
   #. HTN: Holding antihypertensives as above
   #. FEN:  No need to advance diet right now with these acute issues.
   #. PPX:
   -DVT ppx with pneumoboots
   -IV PPI during acute bleed
   #. ACCESS: 2 PIV's , PICC
   #. CODE STATUS: DNR/DNI, confirmed with the patient
   #. EMERGENCY CONTACT: Daughter is HCP, [**Name (NI) 9035**] [**Name2 (NI) 9036**] [**Telephone/Fax (1) 9037**]
   #. DISPOSITION: ICU. F/u stroke w/u
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-10-12**] 04:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-10-14 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-13**]
   - Neuro recs: continue with heparin with transition to coumadin since
   pt had stroke within one week of stopping coumadin
   - GI recs: no plans to scope while in ICU, may consider prior to
   discharge from hospital in colonoscopy suite, f/u ERCP
   - ultrasound over knee, prepatellar fluid, now improving by exam, will
   not tap at this time
   - One melanotic stool, hct stable -> will continue heparin given pt has
   made her wishes clear that she would rather bleed than have a stroke
   - 8pm Hct 27.7
 26.6 MN
 28.3 at 4a
   - Call ERCP fellow tomorrow re MRCP
   Allergies:
   Penicillins
   Unknown;
   Phenergan (Oral) (Promethazine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-14**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36
C (96.8
   HR: 84 (76 - 89) bpm
   BP: 141/63(84) {97/38(52) - 213/199(101)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,001 mL
                                                                    516 mL
   PO:
                                                                    720 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,281 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                  1,690 mL
   Urine:
                                                                  2,530 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    471 mL
                                                                 -1,174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Awake, alert, appropriate. CN
s [**1-22**] grossly intact. 5/5 strength and
   sensation in all 4 extrems, is moving all 4 extrems without difficulty
   and spontaneously. R knee effusion still present but not erythematous
   or tender to palpation and mostly localized to suprapatellar area
   Labs / Radiology
   231 K/uL
   9.1 g/dL
   68 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   10 mg/dL
   106 mEq/L
   142 mEq/L
   28.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2111-10-11**]  04:56 PM
                             [**2111-10-12**]  04:32 AM
                             [**2111-10-12**]  12:21 PM
                             [**2111-10-12**]  03:46 PM
                             [**2111-10-12**]  11:31 PM
                             [**2111-10-13**]  03:35 AM
                             [**2111-10-13**]  10:19 AM
                             [**2111-10-13**]  07:59 PM
                             [**2111-10-14**]  12:09 AM
                             [**2111-10-14**]  03:58 AM
   WBC
   9.2
   8.3
   7.2
   5.4
   Hct
   32.3
   30.3
   34.3
   30.4
   29.3
   29.5
   28.4
   27.7
   26.6
   28.3
   Plt
   249
   247
   246
   231
   Cr
   0.7
   0.7
   0.6
   Glucose
   92
   145
   68
   Other labs: PT / PTT / INR:12.8/67.1/1.1 (today), CK / CKMB /
   Troponin-T:200/5/0.08, ALT / AST:68/37  (today), Alk Phos / T
   Bili:82/2.0  (today), Differential-Neuts:58.0 %, Band:0.0 %, Lymph:25.5
   %, Mono:7.3 %, Eos:8.6 %, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL,
   LDH:371 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: no new imaging
   Microbiology: none
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPOTHYROIDISM
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 MITRAL REGURGITATION (MITRAL INSUFFICIENCY)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Ms. [**Known lastname 9015**] is a 74F with a PMH s/f atrial fibrillation with recent
   initiation of coumadin, who presented with BRBPR, GIB, s/p colonoscopy
   unable to assess where the bleeding was coming from, s/p TIA [**10-12**] with
   negative CT head/neck, with R knee effusion
    #. Stroke: S/p R-sided paralysis and aphasia, now symptomatically
   improved with negative CT head/neck for thrombus, negative ECHO for
   thrombus.  On heparin gtt.   Neuro following, consider restarting
   coumadin.  ECHO negative for thrombus, likely TIA since symptoms
   resolved
   --Continue neuro-recommended heparin gtt despite some BRBPR yesterday
   --Hold on restarting Coumadin until more definitive plan to address GI
   bleed is in place.
   --Q2 hrs neuro checks
   --If active bleeding or Hct drop will need to immediately stop Heparin
   gtt
   #. GI bleed: On heparin for TIA, with 2 marroon stools in 24hrs.
   Unclear source as of now, the plan was to continue to follow Hcts and
   make sure she stabilizes, if brisk bleed would need to angiography.
   Hcts stable. Suspected site is from the lower GI tract, given initial
   brisk presentation and continued melena.  Tagged RBC scan suggests
   hepatic flexture vs duodenum.  She does have transaminitis with ascites
   on CT, so it
s concerning that she has RUQ bleed and
   transaminitis/ascites.  S/p 6 units pRBC with Hct 16->31, now stable
   Hct and 2  melanotic stools.  INR now 1.1, given Vit K but no FFP.
   Lactate normalized.
   - Hct q8hr
   - To angio if brisk bleeding
   - GI recs: repeat colonoscopy given repeated bleed yesterday --> could
   possibly start prep while in house, soon, as hasn't been on regular
   diet since admission
   - Access 2 large bore PIVs  and  power PICC
   - Maintain active type and screen
   - transfuse for HCT <21 or active bleeding
   - surgery following
   - continue IV PPI
   - Holding antihypertensives, ASA, and warfarin
   #. R knee effusion--Apparent effusion. Concern for hemarthrosis given
   on heparin gtt for TIA vs unknown trauma in setting of R sided
   paralysis. Yesterday u/s showing pre-patellar fluid collection
   yesterday, given heat packs and Tylenol yesterday with some
   improvement, still seen to have effusion this am though. Still no
   erythema and not tender to palpation.
   - Continue clinical exams and if seen to get larger or more painful,
   will need stop heparin and reconsider tap.
   # Elevated transaminases and Tbili: With CBD dilatation on CT scan to
   15mm. ERCP fellow is on board and has recommended stabilizing the pt
   from a GIB perspective and then consider MRCP to assess whether a mass
   at the ampulla could be causing the bleed. This was before the possible
   CVA this am, and this will need to be further investigated once pt more
   stable.
   --Consider pushing for MRCP today, however now transaminases are
   improving on their own and Tbili is decreasing as well
   --F/u hepatitis panels and autoimmune hepatitis panel --> AMA and [**Doctor First Name **]
   still pending. No evidence of HepB or C infection, has positive surface
   Ab so either vaccinated or infected but now immune.
   #. Hypothyroidism: Continue home dose of levothyroxine
   #. Diabetes type II: Humalog 75/25 at 15U q breakfast/bedtime and ISS
   #. FEN: Advance to regular vegetarian
   #. PPX:
   -Systemic anticoag with heparin gtt
   -DVT ppx with pneumoboots
   -IV PPI during acute bleed
   #. ACCESS: 2 PIV's , PICC
   #. CODE STATUS: DNR/DNI, confirmed with the patient
   #. EMERGENCY CONTACT: Daughter is HCP, [**Name (NI) 9035**] [**Name2 (NI) 9036**] [**Telephone/Fax (1) 9037**]
   #. DISPOSITION: ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-10-12**] 04:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-10-15 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Gen surgery will stop following as Hcts have been stable.
   - Prepped for colonoscopy today
   - Hct stable, no further melena
   - holding heparin for colonoscopy and will restart heparin with bridge
   to coumadin
   Allergies:
   Penicillins
   Unknown;
   Phenergan (Oral) (Promethazine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-15**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.4
   HR: 79 (73 - 94) bpm
   BP: 167/73(94) {81/16(47) - 167/137(143)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,404 mL
                                                                  1,797 mL
   PO:
                                                                  1,800 mL
                                                                  1,680 mL
   TF:
   IVF:
                                                                    604 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  3,870 mL
                                                                  3,500 mL
   Urine:
                                                                  3,870 mL
                                                                  2,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,466 mL
                                                                 -1,703 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   9.0 g/dL
   90 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.4 mEq/L
   8 mg/dL
   106 mEq/L
   141 mEq/L
   27.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2111-10-12**]  11:31 PM
                             [**2111-10-13**]  03:35 AM
                             [**2111-10-13**]  10:19 AM
                             [**2111-10-13**]  07:59 PM
                             [**2111-10-14**]  12:09 AM
                             [**2111-10-14**]  03:58 AM
                             [**2111-10-14**]  09:17 AM
                             [**2111-10-14**]  04:10 PM
                             [**2111-10-14**]  11:49 PM
                             [**2111-10-15**]  04:14 AM
   WBC
   7.2
   5.4
   5.4
   Hct
   29.3
   29.5
   28.4
   27.7
   26.6
   28.3
   28.8
   27.2
   27.3
   27.6
   Plt
   [**Telephone/Fax (3) 9133**]
   Cr
   0.7
   0.6
   0.7
   Glucose
   145
   68
   90
   Other labs: PT / PTT / INR:13.3/95.4/1.1, CK / CKMB /
   Troponin-T:200/5/0.08, ALT / AST:68/37, Alk Phos / T Bili:82/2.0,
   Differential-Neuts:58.0 %, Band:0.0 %, Lymph:25.5 %, Mono:7.3 %,
   Eos:8.6 %, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:371 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **] positive, titer pending
   Assessment and Plan
   Ms. [**Known lastname 9015**] is a 74F with a PMH s/f atrial fibrillation with recent
   initiation of coumadin, who presented with BRBPR, GIB, s/p colonoscopy
   unable to assess where the bleeding was coming from, s/p TIA [**10-12**] with
   negative CT head/neck, with R knee effusion
    #. Stroke: S/p R-sided paralysis and aphasia, now symptomatically
   improved with negative CT head/neck for thrombus, negative ECHO for
   thrombus.  On heparin gtt (held for colonoscopy).   Neuro following,
   will bridge to coumadin.  ECHO negative for thrombus.
   - Continue neuro-recommended heparin gtt despite some BRBPR yesterday
   - Q2 hrs neuro checks
   - If active bleeding or Hct drop will need to immediately stop Heparin
   gtt
   #. GI bleed: No melena in 24hrs, s/p golytely prep with pinkish fluid
   out.  Hct stableTagged RBC scan suggests hepatic flexture vs duodenum,
   first colonoscopy without source.
   - Colonoscopy today
   - Hct q8hr
   - Access 2 large bore PIVs  and  power PICC
   - Maintain active type and screen
   - transfuse for HCT <21 or active bleeding
   - continue IV PPI, transition to PO after colonoscopy
   - Holding antihypertensives, ASA, and warfarin
   #. R knee effusion--Apparent effusion improving with heat packs and
   Tylenol.  No erythema and not tender to palpation.
   - Continue clinical exams and if seen to get larger or more painful,
   will need stop heparin and reconsider tap.
   # Abnormal LFTs: Improving.  With CBD dilatation on CT scan to 15mm.
   Seen by ERCP, recommended stabilizing the pt from a GIB perspective and
   then consider MRCP to assess whether a mass at the ampulla could be
   causing the bleed. [**Doctor First Name **] positive.
   - If colonoscopy negative, will call ERCP fellow
   --F/u hepatitis panels and autoimmune hepatitis panel --> AMA still
   pending. No evidence of HepB or C infection, has positive surface Ab so
   either vaccinated or infected but now immune.
   #. Hypothyroidism: Continue home dose of levothyroxine
   #. Diabetes type II: Humalog 75/25 at 15U q breakfast/bedtime and ISS
   #. FEN: Advance to regular vegetarian
   #. PPX:
   -Systemic anticoag with heparin gtt, bridge to coumadin
   -DVT ppx with pneumoboots
   -IV PPI during acute bleed
   #. ACCESS: 2 PIV's , PICC
   #. CODE STATUS: DNR/DNI, confirmed with the patient
   #. EMERGENCY CONTACT: Daughter is HCP, [**Name (NI) 9035**] [**Name2 (NI) 9036**] [**Telephone/Fax (1) 9037**]
   #. DISPOSITION: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-10-12**] 04:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: